US07273882B2
To the solution of 3-amino-5-chlorobenzonitrile in THF at RT was added slowly borane methyl sulfide complex (2.5 eq.). The resulting reaction mixture was stirred at RT for 1 h and heated at reflux for 2 hrs. The reaction mixture was cooled to −30° C. and MeOH was added slowly to quench the reaction. Solvent was evaporated in vacuo after the reaction mixture was stirred at RT for 30 min. to give 3-amino-5-chlorobenzylamine, which was used without purification. LCMS (Method A) RT 0.16 min., MH+ 157.

reactant | 3-amino-5-chlorobenzonitrile | NC=1C=C(C#N)C=C(C1)Cl | C7H5ClN2
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 3-amino-5-chlorobenzylamine | NC=1C=C(CN)C=C(C1)Cl | C7H9ClN2
